US04507498
A mixture of 1.89 g (0.004 mole) of [4-acetyl-3-[3-(3-bromopropoxy)propoxy]-2-propylphenoxy]acetic acid ethyl ester, 0.80 g (0.004 mole) of 1-(2,4-dihydroxy-3-propylphenyl)ethanone, and 1.14 g (0.0082 mole) of potassium carbonate in 40 ml of anhydrous acetone and 20 ml of anhydrous dimethylformamide was stirred at reflux for 20 hours. The solvents were removed in vacuo and the residue was purified by HPLC using 35% ethyl acetate-hexane to give 1.69 g (72% yield) of [4-acetyl-3-[3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]propoxy]-2-propylphenoxy]acetic acid ethyl ester as an oil.

reactant | [4-acetyl-3-[3-(3-bromopropoxy)propoxy]-2-propylphenoxy]acetic acid ethyl ester | 0.004 mole, 1.89 g | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)OCCCOCCCBr)CCC)=O | C21H31BrO6
reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 0.004 mole, 0.80 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | potassium carbonate | 0.0082 mole, 1.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | [4-acetyl-3-[3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]propoxy]-2-propylphenoxy]acetic acid ethyl ester | 1.69 g, 72% yield | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)OCCCOCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C32H44O9
